US04111935
A stirred mixture of 3-chloro-6-(2-hydroxy-4-methoxyphenyl)pyridazine (0.1 mole), potassium carbonate (0.3 mole) and epibromohydrin (0.4 mole) in butan-2-one was heated under reflux overnight. The filtered solution was evaporated to give an oil which was purified by elution with mixtures of chloroform-methanol on a silica column to give 3-chloro-6-[2-(2,3-epoxypropoxy)-4-methoxyphenyl]pyridazine m.p. 111°-112° (ethanol).

reactant | 3-chloro-6-(2-hydroxy-4-methoxyphenyl)pyridazine | 0.1 mole | ClC=1N=NC(=CC1)C1=C(C=C(C=C1)OC)O | C11H9ClN2O2
reactant | potassium carbonate | 0.3 mole | C([O-])([O-])=O.[K+].[K+]
reactant | epibromohydrin | 0.4 mole | C(Br)C1CO1 | C3H5BrO
solvent | butan-2-one | CC(CC)=O | C4H8O
product | 3-chloro-6-[2-(2,3-epoxypropoxy)-4-methoxyphenyl]pyridazine | ClC=1N=NC(=CC1)C1=C(C=C(C=C1)OC)OCC1CO1 | C14H13ClN2O3
